US04109093
According to the invention, a process for the preparation of 2-(4'-amino-phenyl)-5-amino-benzimidazole (hereinafter referred to as DAPBI) is provided which comprises carrying out successively the condensation of p-nitro-benzoic acid with aniline, the dinitration of the N-(4'-nitro-benzoyl)aniline obtained, the reduction of the resulting N-(4-nitro-benzoyl)-2,4-dinitro-aniline to the corresponding triamine, and then dehydrocyclisation of the triamine leading to the DAPBI.

reactant | 2-(4'-amino-phenyl)-5-amino-benzimidazole | NC1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)N | C13H12N4
reactant | DAPBI | C1=CC(=C(C(=C1)N)C2=CC3=C(C=C2)N=CN3)N | C13H12N4
reactant | p-nitro-benzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N-(4'-nitro-benzoyl)aniline | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H10N2O3
